US04954518
2.0 g of 2-(3,4-dimethoxyphenyl)vinyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone was suspended in 20 ml of methanol. Thereto was added 3.7 ml of a 15% aqueous sodium hydroxide solution to obtain a solution. Thereto was dropwise added 2.5 ml of a 15% aqueous hydrogen peroxide solution in 10 minutes at 0°-5° C. The mixture was stirred for 10 hours at the same temperature. The reaction mixture was introduced into a mixture of 50 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with water, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 200 : 1 mixture of chloroform and methanol) to obtain 220 mg (yield: 10.7%) of 3-hydroxy-7-methylsulfonylamino-2-(3,4-dimethoxyphenyl)-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 2-(3,4-dimethoxyphenyl)vinyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone | 2.0 g | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1)C(=O)C=CC1=CC(=C(C=C1)OC)OC | C24H23NO7S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-hydroxy-7-methylsulfonylamino-2-(3,4-dimethoxyphenyl)-6-phenoxy-4H-1-benzopyran-4-one | 220 mg, yield: 10.7% | OC1=C(OC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)C2=CC(=C(C=C2)OC)OC | C24H21NO8S
